US06323176B1
A 1 L round bottom flask containing 500 mL of methyl ethyl ketone was charged with 1,2,3,4-tetra-O-acetyl-6-deoxy-6-methanesulfonyl-β-D-glucopyranose (4.45 g, 10.44 mmol) and sodium iodide (15.73 g, 104.9 mmol). The reaction was heated at reflux for 24 hours. The solvent was removed in vacuo and the resulting residue was taken up in 250 mL dichloromethane. The organic layer was washed with sodium thiosulfate (2×100 mL), water (2×100 mL) and once with 100 mL of brine. The organic layer was dried over magnesium sulfate, filtered and the solvent removed in vacuo to yield crude 1,2,3,4-tetra-O-acetyl-6-deoxy-6-iodo-β-D-glucopyranose as a white solid (4.99 g) which was used directly in Preparation 4.

reactant | 1,2,3,4-tetra-O-acetyl-6-deoxy-6-methanesulfonyl-β-D-glucopyranose | 10.44 mmol, 4.45 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)CS(=O)(=O)C | C15H22O11S
reactant | sodium iodide | 104.9 mmol, 15.73 g | [I-].[Na+]
solvent | methyl ethyl ketone | 500 mL | C(C)C(=O)C | C4H8O
product | 1,2,3,4-tetra-O-acetyl-6-deoxy-6-iodo-β-D-glucopyranose | 4.99 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)CI | C14H19IO9
